US05116863
11-(3-Dimethylaminopropylidene)-6,11-dihydrodibenz[b,e]oxepin-2-carboxylic acid (Compound 3)
In this example, 26.1 g of methyl 11-(3-dimethylaminopropylidene)-6,11-dihydrodibenz[b,e]oxepin-2-carboxylate is dissolved in a mixed solvent of 500 ml of methanol and 30 ml of water and 6.2 g of sodium hydroxide is added thereto. The mixture is heated at reflux for two hours. After allowing the mixture to stand for cooling, aqueous 4N-hydrochloric acid solution is added thereto to adjust the pH to 7 and the mixture is concentrated under reduced pressure. The concentrate is purified by column chromatography on high porous polymer (HP-20) (eluent: water:methanol=1:2) to obtain 25.0 g of the desired product.

reactant | methyl 11-(3-dimethylaminopropylidene)-6,11-dihydrodibenz[b,e]oxepin-2-carboxylate | 26.1 g | CN(CCC=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)OC)C | C21H23NO3
reactant | methanol | 500 ml | CO | CH4O
reactant | sodium hydroxide | 6.2 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 30 ml | O | H2O
product | 11-(3-Dimethylaminopropylidene)-6,11-dihydrodibenz[b,e]oxepin-2-carboxylic acid | 25.0 g | CN(CCC=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)O)C | C20H21NO3
